US07176242B2
3-Bromo-5-{[butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide dihydrochloride
Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate (113 mg, 0.36 mmol) is dissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL), and lithium hydroxide monohydrate is added (30 mg, 0.72 mmol), and the reaction stirred 16 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (5 mL), and diisopropylethylamine (250 μL, 1.44 mmol), HATU (170 mg, 0.45 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride prepared as in EXAMPLE SP-264 (170 mg, 0.4 mmol) are added. The reaction stirred at room temperature 16 h. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (1 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 638.2 [M+H]+.

reactant | Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate | 0.36 mmol, 113 mg | BrC=1C=C(C(=O)OC)C=C(C1)CN(C)CCCC | C14H20BrNO2
reactant | diisopropylethylamine | 1.44 mmol, 250 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.45 mmol, 170 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride | Cl.Cl.N[C@]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C#C)O)(CC1=CC(=CC(=C1)F)F)C
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | 3-Bromo-5-{[butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide dihydrochloride | Cl.Cl.BrC=1C=C(C(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C#C)O)CC2=CC(=CC(=C2)F)F)C=C(C1)CN(C)CCCC | InChI=1S/C34H38BrF2N3O2.2ClH/c1-4-6-12-40(3)22-25-13-26(19-28(35)15-25)33(42)39-31(18-24-16-29(36)20-30(37)17-24)32(41)21-38-34(10-11-34)27-9-7-8-23(5-2)14-27;;/h2,7-9,13-17,19-20,31-32,38,41H,4,6,10-12,18,21-22H2,1,3H3,(H,39,42);2*1H/t31-,32+;;/m0../s1
